US08461181B2
A mixture of 5.46 g of N-isopropyl-2-nitro-4-trifluoromethylaniline, 30 ml of ethyl acetate and 5% palladium charcoal (catalytic amount) was stirred for 1.5 hours at room temperature under a hydrogen atmosphere of about 1 atm. The reaction mixture was filtrated through Celite (registered trademark). The filtrate was washed with water, dried over sodium sulfate, then, concentrated under reduced pressure, to obtain 4.35 g of N1-isopropyl-4-trifluoromethylbenzene-1,2-diamine.

reactant | N-isopropyl-2-nitro-4-trifluoromethylaniline | 5.46 g | C(C)(C)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C10H11F3N2O2
catalyst | palladium charcoal | [Pd] | Pd
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N1-isopropyl-4-trifluoromethylbenzene-1,2-diamine | 4.35 g | C(C)(C)NC=1C(=CC(=CC1)C(F)(F)F)N | C10H13F3N2
